US08754068B2
Preparation of (3aS,5aR,5bR,7aS,9S,11aS,13aR,13bR)-9-(3-carboxyphenyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid
To a solution of (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(3-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (20 mg, 0.036 mmol) in EtOAc (3 mL) was added 10% Pd/C (4 mg, 0.0036 mmol). The reaction mixture was stirred at room temperature under 1 ATM of H2 for 36 h. LCMS indicated the reaction was complete and the desired product was formed. The reaction mixture was filtered through a celite pad which was washed with ethyl acetate. The filtrate was concentrated under reduced pressure to provide (3aS,5aR,5bR,7aS,9S,11aS,13aR,13bR)-9-(3-carboxyphenyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid as a white solid (8 mg, 38%). LCMS: m/e 561.45 (M−H)−, 3.53 min (method 5). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.64 (s, 3H), 0.71 (s, 3H), 0.74 (d, J=6.71 Hz, 3H), 0.80-0.86 (m, 3H), 0.92 (s, 3H), 0.93 (s, 3H), 0.95-0.98 (m, 3H), 0.98-1.66 (m, 18H), 1.68-1.82 (m, 3H), 2.07-2.22 (m, 3H), 2.23-2.34 (m, 1H), 2.42 (dd, J=13.12, 2.75 Hz, 1H), 7.36 (t, J=7.48 Hz, 1H), 7.39-7.46 (m, 1H), 7.70-7.80 (m, 2H).

reactant | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(3-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 0.036 mmol, 20 mg | C(=O)(O)C=1C=C(C=CC1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C37H50O4
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.0036 mmol, 4 mg | [Pd] | Pd
product | (3aS,5aR,5bR,7aS,9S,11aS,13aR,13bR)-9-(3-carboxyphenyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | C(=O)(O)C=1C=C(C=CC1)[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)C(CC5)C(C)C)C(=O)O)C)C)(C)C | C37H54O4
